US08304443B2
Cyclopropyl(2-fluoro-4-hydroxyphenyl)methanone
Under argon atmosphere, 4-(tert-butyldimethylsilyloxy)-2-fluorobenzonitrile (10.00 g), which can be prepared according to the method described in Reference example 1, etc., was dissolved in dehydrated THF (30 mL; manufactured by Kanto Chemical Co., Inc.). After cooling to 0° C., 1 mol/L-cyclopropylmagnesium bromide-THF solution (80 mL; manufactured by Tokyo Chemical Industry, Co., Ltd.) was added dropwise thereto. Upon the completion of the dropwise addition, the reaction solution was stirred for 10 minutes at 0° C., and stirred for 1.5 hours at reflux. The reaction solution was cooled to 0° C., added with water (50 mL) and 5 mol/L hydrochloric acid (50 mL), and stirred at reflux overnight. After cooling to the room temperature, the reaction solution was extracted three times with ethyl acetate. The organic layer was washed with water and brine and dried over anhydrous sodium sulfate. After the solvent was evaporated under reduced pressure, the residue was dissolved in dehydrated THF (100 mL; manufactured by Kanto Chemical Co., Inc.), added with 1 mol/L-TBAF-THF solution (31.5 mL; manufactured by Tokyo Chemical Industry, Co., Ltd.), and stirred for 20 minutes at room temperature. To the reaction solution, water and brine were added and extraction was carried out three times with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. N-hexane was added to the residue and the insoluble matters were suspended by ultrasonication. The insoluble matters were filtered to obtain the target compound as a crude product (6.5156 g).

reactant | 4-(tert-butyldimethylsilyloxy)-2-fluorobenzonitrile | 10.00 g | [Si](C)(C)(C(C)(C)C)OC1=CC(=C(C#N)C=C1)F | C13H18FNOSi
reactant | cyclopropylmagnesium bromide THF | 80 mL | C1(CC1)[Mg]Br.C1CCOC1
reactant | water | 50 mL | O | H2O
reactant | hydrochloric acid | 5 mol/L, 50 mL | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | Cyclopropyl(2-fluoro-4-hydroxyphenyl)methanone | 6.5156 g | C1(CC1)C(=O)C1=C(C=C(C=C1)O)F | C10H9FO2
